US06117885
A. α-Cyano-3-nitro-2-pyridineacetic acid, ethyl ester
Potassium (2.5 g, 63 mmol) was carefully added in small lumps to dry t-butanol (80 mL, distilled from calcium hydride). Upon complete addition, the reaction was warmed to 50° and stirred until all the potassium was consumed. Ethyl cyanoacetate (6.71 mL, 63 mmol) was added and a thick white precipitate was formed. 2-Chloro-3-nitropyridine (5 g, 31.5 mmol) was added in hot (60° C.) t-butanol (80 mL) and the reaction turned dark orange upon addition. The reaction was heated to reflux for two hours, the t-butanol was removed and the residue partitioned between hydrochloric acid (1N) and ethyl acetate. The aqueous phase was extracted with ethyl acetate and the combined organic phase was dried over magnesium sulfate, filtered and the solvent removed. The brown solid residue was recrystallized from ethyl acetate to give the desired product as red needles (4.8 g, 65%); m.p. 133-134° C.

reactant | Potassium | 63 mmol, 2.5 g | [K] | K
reactant | Ethyl cyanoacetate | 63 mmol, 6.71 mL | C(#N)CC(=O)OCC | C5H7NO2
reactant | 2-Chloro-3-nitropyridine | 31.5 mmol, 5 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | t-butanol | 80 mL | C(C)(C)(C)O | C4H10O
solvent | t-butanol | 80 mL | C(C)(C)(C)O | C4H10O
product | α-Cyano-3-nitro-2-pyridineacetic acid, ethyl ester | 4.8 g, 65% | C(#N)C(C(=O)OCC)C1=NC=CC=C1[N+](=O)[O-] | C10H9N3O4
